US05646173
1.80 g of N-[2-(1,4,5,6-tetrahydro-benzo[6,7]cyclohepta[1,2-b]pyrrol-1-yl)-ethyl]-acetamide were heated to 140° for 24 hours under argon in 18 ml of ethylene glycol/water 2:1 in the presence of 1.0 g of potassium hydroxide. The reaction mixture was left to cool and was poured into 140 ml of semi-concentrated sodium chloride solution. The mixture was extracted three times with diethyl ether and the combined extracts were washed once with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The thus-obtained oil was chromatographed on 60 g of silica gel with methylene chloride/methanol 19:1. The crude product was dissolved in 5 ml of diethyl ether and treated with 505 mg of fumaric acid in 10 ml of diethyl ether. The crystals were filtered off and recrystallized from 50 ml of ethyl acetate/ethanol 2:1. 1.65 g (72%) of 2-(1,4,5,6-tetrahydro-benzo[6,7]cyclohepta[1,2-b]pyrrol-1-yl)-ethylamine fumarate (1:1) were obtained as white crystals with m.p. 175°-176°.

reactant | N-[2-(1,4,5,6-tetrahydro-benzo[6,7]cyclohepta[1,2-b]pyrrol-1-yl)-ethyl]-acetamide | 1.80 g | N1(C2=C(C=C1)CCCC1=C2C=CC=C1)CCNC(C)=O | C17H20N2O
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | sodium chloride | 140 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 18 ml | C(CO)O.O
product | 2-(1,4,5,6-tetrahydro-benzo[6,7]cyclohepta[1,2-b]pyrrol-1-yl)-ethylamine fumarate | 1.65 g, 72% | C(\C=C\C(=O)O)(=O)O.N1(C2=C(C=C1)CCCC1=C2C=CC=C1)CCN | InChI=1S/C15H18N2.C4H4O4/c16-9-11-17-10-8-13-6-3-5-12-4-1-2-7-14(12)15(13)17;5-3(6)1-2-4(7)8/h1-2,4,7-8,10H,3,5-6,9,11,16H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
